US05122615
Preparation of 2-Chloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile
Hydrogen chloride gas is bubbled through a mixture of (3,4-dichlorophenacyl)malononitrile (8.3 g, 0.333 mol), ether (150 mL) and chloroform (100 mL) at a moderate rate, keeping the reaction mixture temperature below 35°-40° C. After 25 minutes, TLC shows the reaction is complete by UV analysis. The brown reaction mixture is poured into an ice-water mixture and extracted with ether. The combined organic extracts are washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a brown solid. The brown solid is washed with methylene chloride and filtered to give the title product as an off-white solid (6.7 g, 76%, mp >200° C.). Identified by IR and NMR spectral analyses.

reactant | Hydrogen chloride | Cl | ClH
reactant | (3,4-dichlorophenacyl)malononitrile | 0.333 mol, 8.3 g | ClC=1C=C(C(CC(C#N)C#N)=O)C=CC1Cl | C11H6Cl2N2O
reactant | ether | 150 mL | CCOCC | C4H10O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | 6.7 g, 76% | ClC=1NC(=CC1C#N)C1=CC(=C(C=C1)Cl)Cl | C11H5Cl3N2
